* Zero-variance Monte Carlo and structural lane tails
* Expected results: zero_variation_100.expected.json
Vin in 0 10
R1 in out 1000
R2 out 0 3000
.mc 100 0
.end
